US04136256
A solution of 10 g. of 14-methylpentadecyl bromide and 10.8 g. of ethyl 4-aminobenzoate in 75 ml. hexamethylphosphoramide is heated at 120° C. for 17 hours. The cooled solution is diluted with 100 ml. water, filtered, and the residue is washed with 100 ml. 50% ethanol-water. The product is dried, then crystallized from ethanol to yield ethyl 4-(14-methylpentadecyl)aminobenzoate as colorless crystals.

reactant | 14-methylpentadecyl bromide | CC(CCCCCCCCCCCCCBr)C | C16H33Br
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl 4-(14-methylpentadecyl)aminobenzoate | CC(CCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1)C | C25H43NO2
